US05489614
5-(3,4-Dihydroxy-5-nitrophenyl)-2-methyl-4-phenyl-4-penten-3-one
The procedure described in Example 1 was repeated by using 2.96 g of 2-methyl-4-phenyl-3-butanone and 2.4 g of 3,4-dihydroxy-5-nitrobenzaldehyde. Yield 0.52 g, mp 151°-156° C.

reactant | 2-methyl-4-phenyl-3-butanone | 2.96 g | CC(C)C(CC1=CC=CC=C1)=O | C11H14O
reactant | 3,4-dihydroxy-5-nitrobenzaldehyde | 2.4 g | OC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H5NO5
product | 5-(3,4-Dihydroxy-5-nitrophenyl)-2-methyl-4-phenyl-4-penten-3-one | OC=1C=C(C=C(C1O)[N+](=O)[O-])C=C(C(C(C)C)=O)C1=CC=CC=C1 | C18H17NO5
